2118-04-22 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2118-4-21**] 06:07 PM
 FEVER - 101.1
F - [**2118-4-22**] 12:00 AM
   Overnight Events:
   - started BiPAP
   - after much difficulty, got a 2nd IV
   - spiked a temp; was cultured
   - started on vanc/cefepime/flagyl
   - had some episodes of agitation, for which she received zyprexa and
   trazodone
   - when taken off of BiPAP to receive trazodone, she desat'ed; this
   lasted for a long time after her BiPAP mask was placed back on
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-4-21**] 11:27 PM
   Metronidazole - [**2118-4-22**] 12:31 AM
   Cefipime - [**2118-4-22**] 02:12 AM
   Infusions:
   Nitroglycerin - 0.91 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2118-4-21**] 11:42 PM
   Metoprolol - [**2118-4-22**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-22**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100
   HR: 75 (75 - 92) bpm
   BP: 95/58(67) {95/53(67) - 170/100(135)} mmHg
   RR: 28 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    296 mL
                                                                    380 mL
   PO:
             TF:
   IVF:
                                                                    296 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                    325 mL
   Urine:
                                                                    310 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -14 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 677 (677 - 681) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.42/39/72/25/0
   Ve: 16.2 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen: BiPAP mask in place; improved respiratory status compared to
   yesterday evening; NAD
   Neck: Difficult to assess JVD
   CV: RRR, no murmurs, gallops, rubs appreciated over loud respiratory
   sounds
   Chest: Coarse, loud breath sounds [**3-8**] BiPAP
   Abd: S/ND; TTP in RUQ, no rebound or guarding; BS present
   Ext: Anasarca, diffuse 2+ pitting edema
   Labs / Radiology
   218 K/uL
   8.2 g/dL
   225 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   73 mg/dL
   112 mEq/L
   147 mEq/L
   26.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2118-4-21**]  09:10 PM
                             [**2118-4-21**]  10:34 PM
                             [**2118-4-22**]  04:34 AM
   WBC
   15.3
   14.8
   Hct
   30.5
   26.9
   Plt
   209
   218
   Cr
   2.3
   2.2
   TropT
   0.10
   TCO2
   26
   Glucose
   205
   225
   Other labs: CK / CKMB / Troponin-T:81/3/0.10, ALT / AST:25/39, Alk Phos
   / T Bili:90/0.3, Differential-Neuts:92.4 %, Lymph:3.6 %, Mono:2.4 %,
   Eos:1.6 %, Lactic Acid:1.5 mmol/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 59 yo female with DM1, extensive cardiac hx including CAD,
   systolic and diastolic HF, admitted with acute on chronic HF and
   transferred to the CCU for hypoxia.
   # HYPOXIA: Flash pulmonary edema vs. aspiration event top 2 likely
   etiologies. Per transfer assessment, mucus plus and PE also are
   possibilities. Overnight, pt was started on BiPAP. Currently,
   maintaining sats on BiPAP; however, noted to desat rapidly when BiPAP
   is removed. CXR appears fluid overloaded.
   - continue lasix gtt bolus with goal diuresis of 75 to 100 cc per hr
   - continue nitro gtt
   - consider CVL and inotrope to further encourage diuresis; could also
   consider CVVH
   - f/u cx data; continue broad coverage with vanc/cefepime/flagyl
   - continue CE
s for a third set
   - f/u repeat CXR
   - consider intubation if respiratory status does not improve
   # ACUTE ON CHRONIC SYSTOLIC AND DIASTOLIC HF: On furosemide drip as
   above. Per floor team, her edema has improved with diuresis, although
   she remains grossly overloaded on exam.
   - lasix gtt as above
   - continue losartan and metoprolol; continue spironolactone (of note,
   not able to get PO meds at this time [**3-8**] BiPAP)
   - [**Hospital1 **] lytes
   - as above, consider inotrope assistance vs. CVVH
   # Delirium:  Pt with history of agitation and delirium, responsive to
   Zyprexa. This agitation likely exacerbates her respiratory
   difficulties. Psych following.
   - Cont zyprexa 2.5mg QHS and PRN, monitor QTc with daily EKG
   - Cont traZODONE 25 mg PO/NG HS
   - F/u psych recs
   # CAD:  Stable, no evidence of active ischemia.
   - Continue aspirin 81 mg, simvastatin 80 mg daily, plavix 75 mg,
   metoprolol
   - Trending cardiac markers as above
   # HTN: Normotensive this morning.
   - Cont metoprolol and losartan
   - Nitro gtt will also help
   # Monoclonal spike: Has monoclonal gammopathy on SPEP, ? if underlying
   myeloma. There has been some mention of amyloid in prior notes this
   admission.
   - No acute interventions, will speak with her floor team tomorrow to
   understand any established plans for this
   # DIABETES:
   - Continue glargine plus HISS
   - Cont gabapentin for neuropathy
   # DEPRESSION/ANXIETY:
   - Cont fluoxetine 60 mg PO/NG DAILY
   # HYPOTHYROIDISM:
   - Cont levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   PICC Line - [**2118-4-21**] 06:07 PM
   20 Gauge - [**2118-4-21**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**First Name (STitle) 9565**] delineated above.
   History and Physical.   I agree with the documented portions of the
   history and physical examination.  I concur with the treatment plan
   outlined above.
   Medical Decision Making.  As outlined in the above note.  I concur with
   the current plans.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2118-4-22**] 19:41 ------

2118-04-23 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2118-4-22**] 10:31 AM
 THORACENTESIS - At [**2118-4-22**] 12:14 PM
 CORDIS/INTRODUCER - START [**2118-4-22**] 12:47 PM
 NON-INVASIVE VENTILATION - STOP [**2118-4-22**] 01:55 PM
 BLOOD CULTURED - At [**2118-4-22**] 08:41 PM
 NASAL SWAB - At [**2118-4-22**] 08:42 PM
   mrsa
   [**2118-4-22**]
   -
   A thoracentesis was performed with removal of 1.3L
   Pleural fluid analysis was +ve for [**2-6**] lights criteria (pleural
   LDH/serum LDH 306/603 is pleural LDH > [**3-9**] upper normal limit serum
   LDH) suggestive exudative. All other lab values more consistent with
   transudate.
   fluid prot/serum prot >0.5  = 0.3
   fluid LDH/serum LDH >0.6  =  0.5
   Pneuomthorax resulted as consequence of thoracentesis and a Chest tube
   was placed to suction with repeat CXR this am per IP.
   .
   Swan ganz placed with hemodynamics:
   CVP: 20
   RAP: 70 (PAHTN)
   PCWP:13- 18  (lower than expected in this patient with hx 50 pound
   weight gain [**3-8**] fluid).Pt did put out 60cc/hr with diuril 500 and lasix
   GTT, however given PCPWPsuggesting not massively L sided overload,
   renal did not favor CVVH and lasix GTT was stopped.  A repeat TTEE
   showed EF 40% with severe TR.
   .
   Troponins peaked at 0.13.
   RUQ US showed: 1. Cholelithiasis without gallbladder distention. Mild
   and symmetric thickening of the gallbladder wall likely represents
   third spacing. 2. Pulsatility in the portal vein, a finding that can be
   seen in right heart failure.
   3. Small right pleural effusion
   .
   Echo showed EF 40%. The tricuspid valve leaflets fail to fully coapt.
   Moderate to severe [3+] tricuspid regurgitation is seen. There is
   severe pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   .
   Psychiatry recommended increasing her evening zyprexa to 5mg QHS and
   decreasing her PRN zyprexa to 2.5mg qam PRN which was done.
   3 a.m. - patient agitated, nursing concern about possibility of pulling
   out lines. Gave Zyprexa Zydis 2.5 mg once.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-4-21**] 11:27 PM
   Cefipime - [**2118-4-22**] 11:57 PM
   Metronidazole - [**2118-4-23**] 01:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-4-22**] 09:05 PM
   Metoprolol - [**2118-4-23**] 02:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 75 (75 - 79) bpm
   BP: 99/56(54) {99/48(54) - 156/90(96)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 87.7 kg
   Height: 65 Inch
    CVP: 18 (14 - 22)mmHg
   PAP: (72 mmHg) / (24 mmHg)
   PCWP: 13 (9.[**Numeric Identifier **] - 13) mmHg
   CO/CI (Fick): (3.2 L/min) / (1.6 L/min/m2)
   SvO2: 43%
   Mixed Venous O2% Sat: 33 - 50
   Total In:
                                                                  1,499 mL
                                                                    332 mL
   PO:
   TF:
   IVF:
                                                                  1,499 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                    240 mL
   Urine:
                                                                  1,445 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,246 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 666 (666 - 735) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: 7.46/38/146/24/3
   Ve: 11.4 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Gen: BiPAP mask in place; improved respiratory status compared to
   yesterday evening; NAD
   Neck: Difficult to assess JVD
   CV: RRR, no murmurs, gallops, rubs appreciated over loud respiratory
   sounds
   Chest: Coarse, loud breath sounds [**3-8**] BiPAP
   Abd: S/ND; TTP in RUQ, no rebound or guarding; BS present
   Ext: Anasarca, diffuse 2+ pitting edema
   Labs / Radiology
   163 K/uL
   8.6 g/dL
   113 mg/dL
   2.4 mg/dL
   24 mEq/L
   3.5 mEq/L
   76 mg/dL
   112 mEq/L
   149 mEq/L
   28.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2118-4-21**]  09:10 PM
                             [**2118-4-21**]  10:34 PM
                             [**2118-4-22**]  04:34 AM
                             [**2118-4-22**]  09:46 AM
                             [**2118-4-22**]  02:00 PM
                             [**2118-4-22**]  06:30 PM
                             [**2118-4-22**]  09:52 PM
                             [**2118-4-23**]  01:16 AM
                             [**2118-4-23**]  05:53 AM
   WBC
   15.3
   14.8
   8.4
   Hct
   30.5
   26.9
   25
   28.7
   Plt
   [**Telephone/Fax (3) 11927**]
   Cr
   2.3
   2.2
   2.4
   TropT
   0.10
   0.12
   0.13
   0.11
   TCO2
   26
   27
   28
   Glucose
   [**Telephone/Fax (3) 11928**]
   Other labs: PT / PTT / INR:15.0/36.7/1.3, CK / CKMB /
   Troponin-T:91/3/0.11, ALT / AST:22/39, Alk Phos / T Bili:82/0.3,
   Differential-Neuts:90.5 %, Lymph:6.4 %, Mono:2.7 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, LDH:603 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.5
   mg/Dl
   Pleural fluid gram stain negative, remaining cx data (pleural fluid,
   blood, urine, pending, no sputum collected.
   CXR: Swan ganz in right lower lobe pulmonary artery, chest tube in
   place, rexpansion RL. Pacer in place.
   Assessment and Plan
 ALTERATION IN TISSUE PERFUSION
 HYPOXEMIA
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 .H/O DEPRESSION
 .H/O DIABETES MELLITUS (DM), TYPE I
 .H/O ANEMIA, CHRONIC
   A: 59 y/o woman with hx DM1, Torsades s/p ICD, pulmonary hypertension,
   left main thrombosis with cardiac arrest during cardiac cath
   complicated by anoxic brain injury, systolic and diastolic CHF, CKD and
   several admissions over the last few months for acute heart failure,
   delirium and aspiration pna admitted to the hospital at 50 pounds above
   baseline following failed diuresis at rehab, with continued diuresis
   with lasix gtt on admission, transferred to the unit for acute
   worsening of dyspnea .
   Hypoxia:
   Multifactorial, may be [**3-8**] TR with PFO resulting in right to left shunt
   with unsat blood to left sided circulation leading to hypoxia.
   Intrinsic pulmonary disease also a possibility given severe PHTN (PE,
   mucous plugging, atelectasis, parenchymal disease).  [**Month (only) 60**] also be some
   small component of pulmonary edema although not supported by
   hemodynamics.
   Pt responded well to fluid bolus when hypotensive suggesting that she
   is intravascularly dry despite massive anasarca.
   Agitation also plays a role with patient desating to 80s from 90s when
   agitated (a catecholamine surge could lead to increased PHTN leading to
   increased RA pressure which if with PFO leads to left shunt).
   -TTE with bubble study on Monday
   -d/c chest tube, f/u post CXR
   f/u pleural fluid analysis
   -continue abx  with vanc/cefepime/[**Doctor Last Name 816**] for HAP, ? ASP.
   -d/c lasix drip.
   -continue to monitor hemodynamics
   .BIPAP PRN
   Acute on chronic systolic/diastolic CHF/TR: Echo shows severe TR. Pacer
   wire causes automatic TR, but also see valve leaflets unable to fully
   coapt.
   Has been diuresed with lasix gtt over hospitalization and edema has
   improved although remains grossly overloaded on exam.Diuresis has been
   complicated by difficulty with positioning without patient experiencing
   extremis. Given prominent right sided component to overload, further
   diuresis unlikely to impact
   TTE to eval TR /? PFO with possible Triscuspid annulplasty in future
   -continue metoprolol IV, restart lostartan when taking p.o.
   .
   Monoclonal spike: monoclonal gammopathy on SPEP, ? if underlying
   myeloma. Mention of amyloid in prior notes this admission.
   Of note has exudative pattern on thoracentesis.
   f/u pleural fluid analysis.
   .
   HTN:previously on nitro gtt for afterload reduction now dc'd.
   BP's have been mostly in 120s.
   continue metoprolol, restart losartan when taking p.o.
   .
   CAD: Troponins slightly elevated, rising.
   Continue ASA 81, continue simvastatin 80mg daily, plavix 75mg,
   metoprolol
   .
   Delirium: Hx agitation/delirium responsive to zyprexa. Agitation
   exacerbates respiratory distress. Psych following, implimented
   recommendations of increasing her evening zyprexa to 5mg QHS and
   decreasing her PRN zyprexa to 2.5mg qam PRN.
   continue trazadone 25mg p.o qhs
   check daily EKG with concern for prolonged QTC.
   Appreciate Psych recs.
   .
   Diabetes: Continue glargine/HISS
   -continue gabapentin for neuropathy
   .
   Depression/Anxiety: fluoxetine 60mg daily
   .
   Hypothyroidism: continue levothyroxine
   .
   FEN: low sodium, cardiac diet once respiratory status stabilizes.
   Free water boluses with hypernatremia.
   f/u nutrition consult recs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-21**] 06:07 PM
   Cordis/Introducer - [**2118-4-22**] 12:47 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments: Touch base with husband re goals of care and
   feeding tube.
   Code status: Full code
   Disposition: In ICU for now
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**First Name (STitle) 11929**] delineated in her note
   on [**2118-4-23**].
   History and Physical.   I agree with the documentation of the history
   and physical examination.  I concur with the treatment plan outlined
   above.
   Medical Decision Making.  Ms. [**Known lastname **] is a 59 year old woman transferred to
   the CCU for respiratory observation and management of her pulmonary
   hypertension and congestive heart failure.   She has a long history of
   pulmonary hypertension (primary cause unknown but may be related to a
   connective tissue disease), s/p ICD placement with resultant TR
   (annular ring dimension is normal), and a 40 pound weight within the
   hospital.   Currently, her cardiac index is low and we will support her
   as needed with milrinone and ginger fluid boluses.    A PA in place for
   fluid statue monitoring.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2118-4-23**] 16:13 ------

2118-04-24 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had been on humidified mask, agitated at 7:30pm,
    desated to 60s, sat's improved slowly to low 90s with non rebreather.
   Repeat CXR showed no change.
   -ABG: 7.41/37/73/24/ 02 sat 93.
   -On hemodynamics CI went down and not much else.
   - started on milrinone for extra squeeze to increase UOP, initially UOP
   20cc/hr, increased milrinone to 0.5mcg/kg/hr. Goal was to achieve CI
   >2. Poor UOP, got NS fluid bolus 250cc as well as D51/2 NS to correct
   hypernatremia and was net positve ~ 2L, with CI of 2. this am.
   NA 150 at midnight, D5 at 150.
   - discussed with family placing NGT (for p.o volume,improve UOP);
   holding off for now to see if she will start eating.
   -midnight K 4.1
   -Some atrial tach on tele. lytes repleted.
   TTE +bubble study planned for Monday
   Diarrhea, guaic positive stool.
   -Updated family
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-4-23**] 12:00 PM
   Cefipime - [**2118-4-23**] 11:37 PM
   Metronidazole - [**2118-4-24**] 02:00 AM
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-4-23**] 09:16 PM
   Metoprolol - [**2118-4-24**] 02:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-24**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.2
   HR: 75 (64 - 77) bpm
   BP: 119/37(58) {100/37(52) - 152/85(124)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 87.7 kg
   Height: 65 Inch
    CVP: 13 (13 - 18)mmHg
   PAP: (66 mmHg) / (17 mmHg)
   PCWP: 14 (14 - 15) mmHg
   CO/CI (Fick): (4.5 L/min) / (2.3 L/min/m2)
   Mixed Venous O2% Sat: 30 - 41
   Total In:
                                                                  3,108 mL
                                                                  1,134 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,988 mL
                                                                  1,134 mL
   Blood products:
   Total out:
                                                                    458 mL
                                                                     21 mL
   Urine:
                                                                    458 mL
                                                                     21 mL
   NG:
                                 UOP 20cc/hr
   Stool:
   Drains:
   Balance:
                                                                  2,650 mL
                                                                  1,113 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: 7.41/37/73.[**Numeric Identifier 607**]/20/0
   PaO2 / FiO2: 73
   Physical Examination
   Gen: non rebreather ; improved respiratory status compared to yesterday
   evening; NAD
   Neck: Difficult to assess JVD
   CV: RRR, no murmurs, gallops, rubs appreciated over loud respiratory
   sounds
   Chest: bilateral rales
   Abd: S/ND; no TTP in RUQ, no rebound or guarding; BS present
   Ext: Anasarca, diffuse 2+ pitting edema
   Labs / Radiology
   207 K/uL
   8.3 g/dL
   63 mg/dL
   2.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   90 mg/dL
   114 mEq/L
   149 mEq/L
   27.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2118-4-22**]  09:46 AM
                             [**2118-4-22**]  02:00 PM
                             [**2118-4-22**]  06:30 PM
                             [**2118-4-22**]  09:52 PM
                             [**2118-4-23**]  01:16 AM
                             [**2118-4-23**]  05:53 AM
                             [**2118-4-23**]  04:18 PM
                             [**2118-4-23**]  08:31 PM
                             [**2118-4-24**]  12:04 AM
                             [**2118-4-24**]  03:03 AM
   WBC
   8.4
   13.2
   Hct
   25
   28.7
   25
   27.4
   Plt
   163
   207
   Cr
   2.4
   2.5
   2.6
   2.8
   TropT
   0.13
   0.11
   TCO2
   27
   28
   24
   Glucose
   113
   144
   63
   Other labs: PT / PTT / INR:15.6/32.3/1.4, CK / CKMB /
   Troponin-T:91/3/0.11, ALT / AST:22/39, Alk Phos / T Bili:82/0.3,
   Differential-Neuts:90.5 %, Lymph:6.4 %, Mono:2.7 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, LDH:603 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
 ALTERATION IN TISSUE PERFUSION
 HYPOXEMIA
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 .H/O DEPRESSION
 .H/O DIABETES MELLITUS (DM), TYPE I
 .H/O ANEMIA, CHRONIC
 .H/O ANEMIA, CHRONIC
   A: 59 y/o woman with hx DM1, Torsades s/p ICD, pulmonary hypertension,
   left main thrombosis with cardiac arrest during cardiac cath
   complicated by anoxic brain injury, systolic and diastolic CHF, CKD and
   several admissions over the last few months for acute heart failure,
   delirium and aspiration pna admitted to the hospital at 50 pounds above
   baseline following failed diuresis at rehab, with continued diuresis
   with lasix gtt on admission, transferred to the unit for acute
   worsening of dyspnea .
   Hypoxia:
   Multifactorial, may be [**3-8**] TR with PFO resulting in right to left shunt
   with unsat blood to left sided circulation leading to hypoxia.
   Intrinsic pulmonary disease also a possibility given severe PHTN (PE,
   mucous plugging, atelectasis, parenchymal disease).  [**Month (only) 60**] also be some
   small component of pulmonary edema although not supported by
   hemodynamics.
   Pt responded well to fluid bolus initially  when hypotensive suggesting
   that she is intravascularly dry despite massive anasarca.
   Agitation also plays a role with patient desating to 80s from 90s when
   agitated (a catecholamine surge could lead to increased PHTN leading to
   increased RA pressure which if with PFO leads to left shunt). CI was
   below 2 though suggesting cardiogenic shock so she was started on
   milrinone. Cardiac index is above 2 although UOP as measure of end
   organ perfusion remains poor, with Cr and hypernatremia worsening.
   -Fluids, pressors
   Currently on milrinone  (vasodilate and ionotrope) consider dobumatine,
   levo
   -TTE with bubble study on Monday
   -am chest XR after d/c tube
   f/u pleural fluid analysis
   -continue abx  with vanc/cefepime/[**Doctor Last Name 816**] for HAP, ? ASP.
   -d/c
d lasix drip.
   -continue to monitor hemodynamics
   .BIPAP PRN
   Acute on chronic systolic/diastolic CHF/TR: Echo shows severe TR. Pacer
   wire causes automatic TR, but also see valve leaflets unable to fully
   coapt.
   Has been diuresed with lasix gtt over hospitalization and edema has
   improved although remains grossly overloaded on exam.Diuresis has been
   complicated by difficulty with positioning without patient experiencing
   extremis. Given prominent right sided component to overload, further
   diuresis unlikely to impact
   TTE to eval TR /? PFO with possible Triscuspid annulplasty in future
   -continue metoprolol IV, restart lostartan when taking p.o.
   .
   Monoclonal spike: monoclonal gammopathy on SPEP, ? if underlying
   myeloma. Mention of amyloid in prior notes this admission.
   Of note has exudative pattern on thoracentesis.
   f/u pleural fluid analysis.
   .
   HTN:previously on nitro gtt for afterload reduction now dc'd.
   BP's have been mostly in 120s.
   continue metoprolol, restart losartan when taking p.o.
   .
   CAD: Troponins slightly elevated, rising.
   Continue ASA 81, continue simvastatin 80mg daily, plavix 75mg,
   metoprolol
   .
   Delirium: Hx agitation/delirium responsive to zyprexa. Agitation
   exacerbates respiratory distress. Psych following, implimented
   recommendations of increasing her evening zyprexa to 5mg QHS and
   decreasing her PRN zyprexa to 2.5mg qam PRN.
   continue trazadone 25mg p.o qhs
   check daily EKG with concern for prolonged QTC.
   Appreciate Psych recs.
   .
   Diabetes: Continue glargine/HISS
   -continue gabapentin for neuropathy
   .
   Depression/Anxiety: fluoxetine 60mg daily
   .
   Hypothyroidism: continue levothyroxine
   .
   FEN: low sodium, cardiac diet once respiratory status stabilizes.
   Free water boluses with hypernatremia.
   f/u nutrition consult recs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-21**] 06:07 PM
   Cordis/Introducer - [**2118-4-22**] 12:47 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments: Touch base with husband re goals of care and
   feeding tube.
   Code status: Full code
   Disposition: In ICU for now
   ICU Care
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**First Name (STitle) 11929**] delineated in her note
   on [**2118-4-24**].
   History and Physical.   I agree with the documentation of the history
   and physical examination.  I concur with the treatment plan outlined
   above.
   Medical Decision Making.  Ms. [**Known lastname **] is a 59 year old woman transferred to
   the CCU for respiratory observation and management of her pulmonary
   hypertension and congestive heart failure.   She has a long history of
   pulmonary hypertension (primary cause unknown but may be related to a
   connective tissue disease), s/p ICD placement with resultant TR
   (annular ring dimension is normal), and a 40 pound weight within the
   hospital.   She had an additional episode of unresponsiveness and
   hypoxemia this morning that has resolved.  We will try high dose
   corticosteroids empirically and obtain a NO trial to assess
   reversibility of the pulmonary hypertension.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2118-4-24**] 12:25 ------

2118-04-25 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2118-4-24**] 08:55 AM
 NON-INVASIVE VENTILATION - STOP [**2118-4-24**] 04:00 PM
 INVASIVE VENTILATION - START [**2118-4-24**] 04:05 PM
   Overnight Events:
   - had a family meeting and updated them on pt's poor prognosis
   - pt was intubated
   - gave 1 unit of blood
   - started steroids
   - psych recommended increased zyprexa, said we could try haldol as well
   - c.diff was negative
   - decreased PM glargin
   - started [**Last Name (un) 430**]
   - stopped cefepime
   - kept flagyl; started PO vanc
   - needs nitric oxide challenge; needs TTE with bubble study today
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-4-23**] 12:00 PM
   Metronidazole - [**2118-4-24**] 06:02 PM
   Cefipime - [**2118-4-25**] 12:08 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-25**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36
C (96.8
   HR: 75 (75 - 86) bpm
   BP: 97/42(60) {97/42(60) - 128/49(75)} mmHg
   RR: 15 (0 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 87.7 kg
   Height: 65 Inch
    CVP: 24 (9 - 24)mmHg
   PAP: (76 mmHg) / (34 mmHg)
   PCWP: 12 (12 - 12) mmHg
   CO/CI (Fick): (12.2 L/min) / (6.2 L/min/m2)
   Mixed Venous O2% Sat: 50 - 83
   Total In:
                                                                  3,238 mL
                                                                    686 mL
   PO:
   TF:
   IVF:
                                                                  3,238 mL
                                                                    686 mL
   Blood products:
   Total out:
                                                                    110 mL
                                                                      0 mL
   Urine:
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,128 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 804 (84 - 804) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 37 cmH2O
   SpO2: 99%
   ABG: 7.27/45/66/20/-5
   Ve: 11.6 L/min
   PaO2 / FiO2: 83
   Physical Examination
   Gen: non rebreather ; improved respiratory status compared to yesterday
   evening; NAD
   Neck: Difficult to assess JVD
   CV: RRR, no murmurs, gallops, rubs appreciated over loud respiratory
   sounds
   Chest: bilateral rales
   Abd: S/ND; no TTP in RUQ, no rebound or guarding; BS present
   Ext: Anasarca, diffuse 2+ pitting edema
   Labs / Radiology
   231 K/uL
   8.3 g/dL
   372 mg/dL
   3.3 mg/dL
   20 mEq/L
   4.1 mEq/L
   92 mg/dL
   107 mEq/L
   139 mEq/L
   26
   11.5 K/uL
        [image002.jpg]
                             [**2118-4-23**]  08:31 PM
                             [**2118-4-24**]  12:04 AM
                             [**2118-4-24**]  03:03 AM
                             [**2118-4-24**]  08:59 AM
                             [**2118-4-24**]  01:02 PM
                             [**2118-4-24**]  05:25 PM
                             [**2118-4-24**]  11:12 PM
                             [**2118-4-25**]  01:27 AM
                             [**2118-4-25**]  01:33 AM
                             [**2118-4-25**]  02:58 AM
   WBC
   13.2
   6.6
   11.5
   Hct
   25
   27.4
   22.9
   28.0
   26
   Plt
   [**Telephone/Fax (3) 11932**]
   Cr
   2.8
   3.0
   3.3
   TCO2
   24
   23
   24
   22
   Glucose
   63
   112
   372
   Other labs: PT / PTT / INR:15.6/32.3/1.4, CK / CKMB /
   Troponin-T:91/3/0.11, ALT / AST:22/39, Alk Phos / T Bili:82/0.3,
   Differential-Neuts:90.5 %, Lymph:6.4 %, Mono:2.7 %, Eos:0.3 %, Lactic
   Acid:1.7 mmol/L, LDH:603 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   59 y/o woman with hx DM1, Torsades s/p ICD, pulmonary hypertension,
   left main thrombosis with cardiac arrest during cardiac cath
   complicated by anoxic brain injury, systolic and diastolic CHF, CKD and
   several admissions over the last few months for acute heart failure,
   delirium and aspiration pna admitted to the hospital at 50 pounds above
   baseline following failed diuresis at rehab, with continued diuresis
   with lasix gtt on admission, transferred to the unit for acute
   worsening of dyspnea .
   Hypoxia:
   Multifactorial, may be [**3-8**] TR with PFO resulting in right to left shunt
   with unsat blood to left sided circulation leading to hypoxia.
   Intrinsic pulmonary disease also a possibility given severe PHTN (PE,
   mucous plugging, atelectasis, parenchymal disease).  [**Month (only) 60**] also be some
   small component of pulmonary edema although not supported by
   hemodynamics.
   Pt responded well to fluid bolus initially  when hypotensive suggesting
   that she is intravascularly dry despite massive anasarca.
   Agitation also plays a role with patient desating to 80s from 90s when
   agitated (a catecholamine surge could lead to increased PHTN leading to
   increased RA pressure which if with PFO leads to left shunt). CI was
   below 2 though suggesting cardiogenic shock so she was started on
   milrinone. Cardiac index is above 2 although UOP as measure of end
   organ perfusion remains poor, with Cr and hypernatremia worsening.
   -Fluids, pressors
   Currently on milrinone  (vasodilate and ionotrope) consider dobumatine,
   levo
   -TTE with bubble study on Monday
   -am chest XR after d/c tube
   f/u pleural fluid analysis
   -continue abx  with vanc/cefepime/[**Doctor Last Name 816**] for HAP, ? ASP.
   -d/c
d lasix drip.
   -continue to monitor hemodynamics
   .BIPAP PRN
   Acute on chronic systolic/diastolic CHF/TR: Echo shows severe TR. Pacer
   wire causes automatic TR, but also see valve leaflets unable to fully
   coapt.
   Has been diuresed with lasix gtt over hospitalization and edema has
   improved although remains grossly overloaded on exam.Diuresis has been
   complicated by difficulty with positioning without patient experiencing
   extremis. Given prominent right sided component to overload, further
   diuresis unlikely to impact
   TTE to eval TR /? PFO with possible Triscuspid annulplasty in future
   -continue metoprolol IV, restart lostartan when taking p.o.
   .
   Monoclonal spike: monoclonal gammopathy on SPEP, ? if underlying
   myeloma. Mention of amyloid in prior notes this admission.
   Of note has exudative pattern on thoracentesis.
   f/u pleural fluid analysis.
   .
   HTN:previously on nitro gtt for afterload reduction now dc'd.
   BP's have been mostly in 120s.
   continue metoprolol, restart losartan when taking p.o.
   .
   CAD: Troponins slightly elevated, rising.
   Continue ASA 81, continue simvastatin 80mg daily, plavix 75mg,
   metoprolol
   .
   Delirium: Hx agitation/delirium responsive to zyprexa. Agitation
   exacerbates respiratory distress. Psych following, implimented
   recommendations of increasing her evening zyprexa to 5mg QHS and
   decreasing her PRN zyprexa to 2.5mg qam PRN.
   continue trazadone 25mg p.o qhs
   check daily EKG with concern for prolonged QTC.
   Appreciate Psych recs.
   .
   Diabetes: Continue glargine/HISS
   -continue gabapentin for neuropathy
   .
   Depression/Anxiety: fluoxetine 60mg daily
   .
   Hypothyroidism: continue levothyroxine
   .
   FEN: low sodium, cardiac diet once respiratory status stabilizes.
   Free water boluses with hypernatremia.
   f/u nutrition consult recs.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-4-21**] 06:07 PM
   Cordis/Introducer - [**2118-4-22**] 12:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU